US06103708
4-[4-(2-Butyl-benzofuran-3-ylmethyl)-phenoxysulfonyl]-2-hydroxy-benzoic acid
The title compound was prepared according to the procedure in Example 4 using 4-(2-butyl-benzofuran-3-ylmethyl)-phenol (0.500 g, 1.78 mmol) and 4-chlorosulphonyl-2-hydroxybenzoic acid (0.844 g, 3.56 mmol). Purification on 2% H3PO4 /MeOH treated silica gel, eluting with EtOAc/hexane gave 0.728 g (86%) of the title compound as an orange solid, mp 135-138° C. 1H NMR (DMSO-d6) δ 0.84 (t, 3 H), 1.27 (sextet, 2 H), 1.58 (quintet, 2 H), 2.76 (t, 2 H), 3.97 (s, 2 H), 6.96 (d, 2 H), 7.10 (dt, 1 H), 7.17 (dt, 1 H), 7.22-7.31 (m, 5 H), 7.43 (d, 1 H), 7.95 (d, 1 H). IR (KBr) 3300, 2950, 1675, 1390 and 1175 cm-1. mass spectrum (-ESI) m/z 479 (M-H). Anal. Calcd. for C26H24O7S.0.2H2O: C, 64.50; H, 5.08; N, 0.00. Found: C, 64.50; H, 5.07; n, 0.06.

reactant | 4-(2-butyl-benzofuran-3-ylmethyl)-phenol | 1.78 mmol, 0.500 g | C(CCC)C=1OC2=C(C1CC1=CC=C(C=C1)O)C=CC=C2 | C19H20O2
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 3.56 mmol, 0.844 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-[4-(2-Butyl-benzofuran-3-ylmethyl)-phenoxysulfonyl]-2-hydroxy-benzoic acid | 0.728 g, 86% | C(CCC)C=1OC2=C(C1CC1=CC=C(OS(=O)(=O)C3=CC(=C(C(=O)O)C=C3)O)C=C1)C=CC=C2 | C26H24O7S
